* Generated by generate_dielectric_netlists.py for case 10-40-150
* C:\Users\ryota\Documents\DoctoralResearch\src\JPE_circuit_model\examples\JPE_3stacks.asc
V Ndc 0 PWL(0 0 1 3 2 0)
R_fg N006 Ndc 50
L_ext N004 N006 10m
R_ext N002 N004 1.15
L_mid N001 N002 10m
L_rad N003 N005 6.3986u
R_rad Nd N003 8.5994
C_rad N005 Na 10.498n
R_gnd Na 0 7.2
V§T_bath N007 0 -26.295
R_th T N007 7162.3
C_th T N007 100n
R_mid Nd N001 8.29

* Stack configuration: 10-40-150
XX001 Nd Nc_s01 T 0 1stack params: M=144.371 N=4 I_c=12m R=10.5215m L=18.6728n C=17.5396u
XX002 Nc_s01 Nc_s02 T 0 1stack params: M=144.371 N=4 I_c=12m R=10.5215m L=18.6728n C=17.5396u
XX003 Nc_s02 Nc_s03 T 0 1stack params: M=144.371 N=4 I_c=12m R=10.5215m L=18.6728n C=17.5396u
XX004 Nc_s03 Nc_s04 T 0 1stack params: M=144.371 N=4 I_c=12m R=10.5215m L=18.6728n C=17.5396u
XX005 Nc_s04 Nc_s05 T 0 1stack params: M=144.371 N=4 I_c=12m R=10.5215m L=18.6728n C=17.5396u
XX006 Nc_s05 Nc_s06 T 0 1stack params: M=144.371 N=4 I_c=12m R=10.5215m L=18.6728n C=17.5396u
XX007 Nc_s06 Nc_s07 T 0 1stack params: M=144.371 N=4 I_c=12m R=10.5215m L=18.6728n C=17.5396u
XX008 Nc_s07 Nc_s08 T 0 1stack params: M=144.371 N=4 I_c=12m R=10.5215m L=18.6728n C=17.5396u
XX009 Nc_s08 Nc_s09 T 0 1stack params: M=144.371 N=4 I_c=12m R=10.5215m L=18.6728n C=17.5396u
XX010 Nc_s09 Nc T 0 1stack params: M=144.371 N=4 I_c=12m R=10.5215m L=18.6728n C=17.5396u
XX011 Nc Nb_s01 T 0 1stack params: M=173.248 N=5 I_c=18m R=8.76777m L=15.5603n C=21.0479u
XX012 Nb_s01 Nb_s02 T 0 1stack params: M=173.248 N=5 I_c=18m R=8.76777m L=15.5603n C=21.0479u
XX013 Nb_s02 Nb_s03 T 0 1stack params: M=173.248 N=5 I_c=18m R=8.76777m L=15.5603n C=21.0479u
XX014 Nb_s03 Nb_s04 T 0 1stack params: M=173.248 N=5 I_c=18m R=8.76777m L=15.5603n C=21.0479u
XX015 Nb_s04 Nb_s05 T 0 1stack params: M=173.248 N=5 I_c=18m R=8.76777m L=15.5603n C=21.0479u
XX016 Nb_s05 Nb_s06 T 0 1stack params: M=173.248 N=5 I_c=18m R=8.76777m L=15.5603n C=21.0479u
XX017 Nb_s06 Nb_s07 T 0 1stack params: M=173.248 N=5 I_c=18m R=8.76777m L=15.5603n C=21.0479u
XX018 Nb_s07 Nb_s08 T 0 1stack params: M=173.248 N=5 I_c=18m R=8.76777m L=15.5603n C=21.0479u
XX019 Nb_s08 Nb_s09 T 0 1stack params: M=173.248 N=5 I_c=18m R=8.76777m L=15.5603n C=21.0479u
XX020 Nb_s09 Nb_s10 T 0 1stack params: M=173.248 N=5 I_c=18m R=8.76777m L=15.5603n C=21.0479u
XX021 Nb_s10 Nb_s11 T 0 1stack params: M=173.248 N=5 I_c=18m R=8.76777m L=15.5603n C=21.0479u
XX022 Nb_s11 Nb_s12 T 0 1stack params: M=173.248 N=5 I_c=18m R=8.76777m L=15.5603n C=21.0479u
XX023 Nb_s12 Nb_s13 T 0 1stack params: M=216.56 N=4 I_c=18m R=7.01422m L=12.4483n C=26.3099u
XX024 Nb_s13 Nb_s14 T 0 1stack params: M=216.56 N=4 I_c=18m R=7.01422m L=12.4483n C=26.3099u
XX025 Nb_s14 Nb_s15 T 0 1stack params: M=216.56 N=4 I_c=18m R=7.01422m L=12.4483n C=26.3099u
XX026 Nb_s15 Nb_s16 T 0 1stack params: M=216.56 N=4 I_c=18m R=7.01422m L=12.4483n C=26.3099u
XX027 Nb_s16 Nb_s17 T 0 1stack params: M=216.56 N=4 I_c=18m R=7.01422m L=12.4483n C=26.3099u
XX028 Nb_s17 Nb_s18 T 0 1stack params: M=216.56 N=4 I_c=18m R=7.01422m L=12.4483n C=26.3099u
XX029 Nb_s18 Nb_s19 T 0 1stack params: M=216.56 N=4 I_c=18m R=7.01422m L=12.4483n C=26.3099u
XX030 Nb_s19 Nb_s20 T 0 1stack params: M=216.56 N=4 I_c=18m R=7.01422m L=12.4483n C=26.3099u
XX031 Nb_s20 Nb_s21 T 0 1stack params: M=216.56 N=4 I_c=18m R=7.01422m L=12.4483n C=26.3099u
XX032 Nb_s21 Nb_s22 T 0 1stack params: M=216.56 N=4 I_c=18m R=7.01422m L=12.4483n C=26.3099u
XX033 Nb_s22 Nb_s23 T 0 1stack params: M=216.56 N=4 I_c=18m R=7.01422m L=12.4483n C=26.3099u
XX034 Nb_s23 Nb_s24 T 0 1stack params: M=216.56 N=4 I_c=18m R=7.01422m L=12.4483n C=26.3099u
XX035 Nb_s24 Nb_s25 T 0 1stack params: M=216.56 N=4 I_c=18m R=7.01422m L=12.4483n C=26.3099u
XX036 Nb_s25 Nb_s26 T 0 1stack params: M=216.56 N=4 I_c=18m R=7.01422m L=12.4483n C=26.3099u
XX037 Nb_s26 Nb_s27 T 0 1stack params: M=216.56 N=4 I_c=18m R=7.01422m L=12.4483n C=26.3099u
XX038 Nb_s27 Nb_s28 T 0 1stack params: M=216.56 N=4 I_c=18m R=7.01422m L=12.4483n C=26.3099u
XX039 Nb_s28 Nb_s29 T 0 1stack params: M=216.56 N=4 I_c=18m R=7.01422m L=12.4483n C=26.3099u
XX040 Nb_s29 Nb_s30 T 0 1stack params: M=216.56 N=4 I_c=18m R=7.01422m L=12.4483n C=26.3099u
XX041 Nb_s30 Nb_s31 T 0 1stack params: M=216.56 N=4 I_c=18m R=7.01422m L=12.4483n C=26.3099u
XX042 Nb_s31 Nb_s32 T 0 1stack params: M=216.56 N=4 I_c=18m R=7.01422m L=12.4483n C=26.3099u
XX043 Nb_s32 Nb_s33 T 0 1stack params: M=216.56 N=4 I_c=18m R=7.01422m L=12.4483n C=26.3099u
XX044 Nb_s33 Nb_s34 T 0 1stack params: M=216.56 N=4 I_c=18m R=7.01422m L=12.4483n C=26.3099u
XX045 Nb_s34 Nb_s35 T 0 1stack params: M=216.56 N=4 I_c=18m R=7.01422m L=12.4483n C=26.3099u
XX046 Nb_s35 Nb_s36 T 0 1stack params: M=216.56 N=4 I_c=18m R=7.01422m L=12.4483n C=26.3099u
XX047 Nb_s36 Nb_s37 T 0 1stack params: M=216.56 N=4 I_c=18m R=7.01422m L=12.4483n C=26.3099u
XX048 Nb_s37 Nb_s38 T 0 1stack params: M=216.56 N=4 I_c=18m R=7.01422m L=12.4483n C=26.3099u
XX049 Nb_s38 Nb_s39 T 0 1stack params: M=216.56 N=4 I_c=18m R=7.01422m L=12.4483n C=26.3099u
XX050 Nb_s39 Nb T 0 1stack params: M=216.56 N=4 I_c=18m R=7.01422m L=12.4483n C=26.3099u
XX051 Nb Na_s001 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX052 Na_s001 Na_s002 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX053 Na_s002 Na_s003 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX054 Na_s003 Na_s004 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX055 Na_s004 Na_s005 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX056 Na_s005 Na_s006 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX057 Na_s006 Na_s007 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX058 Na_s007 Na_s008 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX059 Na_s008 Na_s009 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX060 Na_s009 Na_s010 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX061 Na_s010 Na_s011 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX062 Na_s011 Na_s012 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX063 Na_s012 Na_s013 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX064 Na_s013 Na_s014 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX065 Na_s014 Na_s015 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX066 Na_s015 Na_s016 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX067 Na_s016 Na_s017 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX068 Na_s017 Na_s018 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX069 Na_s018 Na_s019 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX070 Na_s019 Na_s020 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX071 Na_s020 Na_s021 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX072 Na_s021 Na_s022 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX073 Na_s022 Na_s023 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX074 Na_s023 Na_s024 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX075 Na_s024 Na_s025 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX076 Na_s025 Na_s026 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX077 Na_s026 Na_s027 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX078 Na_s027 Na_s028 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX079 Na_s028 Na_s029 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX080 Na_s029 Na_s030 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX081 Na_s030 Na_s031 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX082 Na_s031 Na_s032 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX083 Na_s032 Na_s033 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX084 Na_s033 Na_s034 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX085 Na_s034 Na_s035 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX086 Na_s035 Na_s036 T 0 1stack params: M=173.729 N=5 I_c=18.05m R=8.7435m L=15.5173n C=21.1063u
XX087 Na_s036 Na_s037 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX088 Na_s037 Na_s038 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX089 Na_s038 Na_s039 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX090 Na_s039 Na_s040 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX091 Na_s040 Na_s041 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX092 Na_s041 Na_s042 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX093 Na_s042 Na_s043 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX094 Na_s043 Na_s044 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX095 Na_s044 Na_s045 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX096 Na_s045 Na_s046 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX097 Na_s046 Na_s047 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX098 Na_s047 Na_s048 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX099 Na_s048 Na_s049 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX100 Na_s049 Na_s050 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX101 Na_s050 Na_s051 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX102 Na_s051 Na_s052 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX103 Na_s052 Na_s053 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX104 Na_s053 Na_s054 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX105 Na_s054 Na_s055 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX106 Na_s055 Na_s056 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX107 Na_s056 Na_s057 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX108 Na_s057 Na_s058 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX109 Na_s058 Na_s059 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX110 Na_s059 Na_s060 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX111 Na_s060 Na_s061 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX112 Na_s061 Na_s062 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX113 Na_s062 Na_s063 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX114 Na_s063 Na_s064 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX115 Na_s064 Na_s065 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX116 Na_s065 Na_s066 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX117 Na_s066 Na_s067 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX118 Na_s067 Na_s068 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX119 Na_s068 Na_s069 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX120 Na_s069 Na_s070 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX121 Na_s070 Na_s071 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX122 Na_s071 Na_s072 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX123 Na_s072 Na_s073 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX124 Na_s073 Na_s074 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX125 Na_s074 Na_s075 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX126 Na_s075 Na_s076 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX127 Na_s076 Na_s077 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX128 Na_s077 Na_s078 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX129 Na_s078 Na_s079 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX130 Na_s079 Na_s080 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX131 Na_s080 Na_s081 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX132 Na_s081 Na_s082 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX133 Na_s082 Na_s083 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX134 Na_s083 Na_s084 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX135 Na_s084 Na_s085 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX136 Na_s085 Na_s086 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX137 Na_s086 Na_s087 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX138 Na_s087 Na_s088 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX139 Na_s088 Na_s089 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX140 Na_s089 Na_s090 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX141 Na_s090 Na_s091 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX142 Na_s091 Na_s092 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX143 Na_s092 Na_s093 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX144 Na_s093 Na_s094 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX145 Na_s094 Na_s095 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX146 Na_s095 Na_s096 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX147 Na_s096 Na_s097 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX148 Na_s097 Na_s098 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX149 Na_s098 Na_s099 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX150 Na_s099 Na_s100 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX151 Na_s100 Na_s101 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX152 Na_s101 Na_s102 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX153 Na_s102 Na_s103 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX154 Na_s103 Na_s104 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX155 Na_s104 Na_s105 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX156 Na_s105 Na_s106 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX157 Na_s106 Na_s107 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX158 Na_s107 Na_s108 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX159 Na_s108 Na_s109 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX160 Na_s109 Na_s110 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX161 Na_s110 Na_s111 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX162 Na_s111 Na_s112 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX163 Na_s112 Na_s113 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX164 Na_s113 Na_s114 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX165 Na_s114 Na_s115 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX166 Na_s115 Na_s116 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX167 Na_s116 Na_s117 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX168 Na_s117 Na_s118 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX169 Na_s118 Na_s119 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX170 Na_s119 Na_s120 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX171 Na_s120 Na_s121 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX172 Na_s121 Na_s122 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX173 Na_s122 Na_s123 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX174 Na_s123 Na_s124 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX175 Na_s124 Na_s125 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX176 Na_s125 Na_s126 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX177 Na_s126 Na_s127 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX178 Na_s127 Na_s128 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX179 Na_s128 Na_s129 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX180 Na_s129 Na_s130 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX181 Na_s130 Na_s131 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX182 Na_s131 Na_s132 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX183 Na_s132 Na_s133 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX184 Na_s133 Na_s134 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX185 Na_s134 Na_s135 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX186 Na_s135 Na_s136 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX187 Na_s136 Na_s137 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX188 Na_s137 Na_s138 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX189 Na_s138 Na_s139 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX190 Na_s139 Na_s140 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX191 Na_s140 Na_s141 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX192 Na_s141 Na_s142 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX193 Na_s142 Na_s143 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX194 Na_s143 Na_s144 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX195 Na_s144 Na_s145 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX196 Na_s145 Na_s146 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX197 Na_s146 Na_s147 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX198 Na_s147 Na_s148 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX199 Na_s148 Na_s149 T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u
XX200 Na_s149 Na T 0 1stack params: M=217.161 N=4 I_c=18.05m R=6.9948m L=12.4138n C=26.3829u

* block symbol definitions
.subckt 1stack in out P_out P_in
B§IJJ in out I={I_c}*sin(V(Phi))
B§R_int in out I={M}*((V(in)-V(out))/({alpha}*(exp(-1*(V(P_out)-V(P_in))/{beta})+exp(-1*(V(P_out)-V(P_in))**2/{gamma}))+{delta}))
R in N001 {R}
C Nlc out {C}
B§P P_in P_out I=(V(in)-V(out))*I(R_int)
B§V_t 0 Phi I=(V(in)-V(out))/{N}
C§h/2e Phi 0 329.1p
L N001 Nlc {L}
.ic V(Phi)=0 V(Nlc)=0
.ends 1stack

.param alpha=140.26 beta=74.429 gamma=2993.7 delta=14.966
.tran 0 2 0 10u
.ic V(Nd)=0 V(Nc_s01)=0 V(Nc_s02)=0 V(Nc_s03)=0 V(Nc_s04)=0 V(Nc_s05)=0
+ V(Nc_s06)=0 V(Nc_s07)=0 V(Nc_s08)=0 V(Nc_s09)=0 V(Nc)=0 V(Nb_s01)=0
+ V(Nb_s02)=0 V(Nb_s03)=0 V(Nb_s04)=0 V(Nb_s05)=0 V(Nb_s06)=0 V(Nb_s07)=0
+ V(Nb_s08)=0 V(Nb_s09)=0 V(Nb_s10)=0 V(Nb_s11)=0 V(Nb_s12)=0 V(Nb_s13)=0
+ V(Nb_s14)=0 V(Nb_s15)=0 V(Nb_s16)=0 V(Nb_s17)=0 V(Nb_s18)=0 V(Nb_s19)=0
+ V(Nb_s20)=0 V(Nb_s21)=0 V(Nb_s22)=0 V(Nb_s23)=0 V(Nb_s24)=0 V(Nb_s25)=0
+ V(Nb_s26)=0 V(Nb_s27)=0 V(Nb_s28)=0 V(Nb_s29)=0 V(Nb_s30)=0 V(Nb_s31)=0
+ V(Nb_s32)=0 V(Nb_s33)=0 V(Nb_s34)=0 V(Nb_s35)=0 V(Nb_s36)=0 V(Nb_s37)=0
+ V(Nb_s38)=0 V(Nb_s39)=0 V(Nb)=0 V(Na_s001)=0 V(Na_s002)=0 V(Na_s003)=0
+ V(Na_s004)=0 V(Na_s005)=0 V(Na_s006)=0 V(Na_s007)=0 V(Na_s008)=0 V(Na_s009)=0
+ V(Na_s010)=0 V(Na_s011)=0 V(Na_s012)=0 V(Na_s013)=0 V(Na_s014)=0 V(Na_s015)=0
+ V(Na_s016)=0 V(Na_s017)=0 V(Na_s018)=0 V(Na_s019)=0 V(Na_s020)=0 V(Na_s021)=0
+ V(Na_s022)=0 V(Na_s023)=0 V(Na_s024)=0 V(Na_s025)=0 V(Na_s026)=0 V(Na_s027)=0
+ V(Na_s028)=0 V(Na_s029)=0 V(Na_s030)=0 V(Na_s031)=0 V(Na_s032)=0 V(Na_s033)=0
+ V(Na_s034)=0 V(Na_s035)=0 V(Na_s036)=0 V(Na_s037)=0 V(Na_s038)=0 V(Na_s039)=0
+ V(Na_s040)=0 V(Na_s041)=0 V(Na_s042)=0 V(Na_s043)=0 V(Na_s044)=0 V(Na_s045)=0
+ V(Na_s046)=0 V(Na_s047)=0 V(Na_s048)=0 V(Na_s049)=0 V(Na_s050)=0 V(Na_s051)=0
+ V(Na_s052)=0 V(Na_s053)=0 V(Na_s054)=0 V(Na_s055)=0 V(Na_s056)=0 V(Na_s057)=0
+ V(Na_s058)=0 V(Na_s059)=0 V(Na_s060)=0 V(Na_s061)=0 V(Na_s062)=0 V(Na_s063)=0
+ V(Na_s064)=0 V(Na_s065)=0 V(Na_s066)=0 V(Na_s067)=0 V(Na_s068)=0 V(Na_s069)=0
+ V(Na_s070)=0 V(Na_s071)=0 V(Na_s072)=0 V(Na_s073)=0 V(Na_s074)=0 V(Na_s075)=0
+ V(Na_s076)=0 V(Na_s077)=0 V(Na_s078)=0 V(Na_s079)=0 V(Na_s080)=0 V(Na_s081)=0
+ V(Na_s082)=0 V(Na_s083)=0 V(Na_s084)=0 V(Na_s085)=0 V(Na_s086)=0 V(Na_s087)=0
+ V(Na_s088)=0 V(Na_s089)=0 V(Na_s090)=0 V(Na_s091)=0 V(Na_s092)=0 V(Na_s093)=0
+ V(Na_s094)=0 V(Na_s095)=0 V(Na_s096)=0 V(Na_s097)=0 V(Na_s098)=0 V(Na_s099)=0
+ V(Na_s100)=0 V(Na_s101)=0 V(Na_s102)=0 V(Na_s103)=0 V(Na_s104)=0 V(Na_s105)=0
+ V(Na_s106)=0 V(Na_s107)=0 V(Na_s108)=0 V(Na_s109)=0 V(Na_s110)=0 V(Na_s111)=0
+ V(Na_s112)=0 V(Na_s113)=0 V(Na_s114)=0 V(Na_s115)=0 V(Na_s116)=0 V(Na_s117)=0
+ V(Na_s118)=0 V(Na_s119)=0 V(Na_s120)=0 V(Na_s121)=0 V(Na_s122)=0 V(Na_s123)=0
+ V(Na_s124)=0 V(Na_s125)=0 V(Na_s126)=0 V(Na_s127)=0 V(Na_s128)=0 V(Na_s129)=0
+ V(Na_s130)=0 V(Na_s131)=0 V(Na_s132)=0 V(Na_s133)=0 V(Na_s134)=0 V(Na_s135)=0
+ V(Na_s136)=0 V(Na_s137)=0 V(Na_s138)=0 V(Na_s139)=0 V(Na_s140)=0 V(Na_s141)=0
+ V(Na_s142)=0 V(Na_s143)=0 V(Na_s144)=0 V(Na_s145)=0 V(Na_s146)=0 V(Na_s147)=0
+ V(Na_s148)=0 V(Na_s149)=0 V(Na)=0
.backanno
.end
